US08097610B2
Preparation of 2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethanol
Lithium aluminium hydride (202 mg) was suspended in tetrahydrofuran (10 mL). A solution of [1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]acetic acid methyl ester (940 mg) in tetrahydrofuran (10 mL) was added thereto at 0° C. After stirring at 0° C. for 1 hour, to the reaction solution were sequentially added water (0.2 mL), 10% sodium hydroxide (0.2 mL) and water (0.6 mL). The insoluble material was filtrated and the filtrate was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (790 mg). Yield: 91%.

reactant | Lithium aluminium hydride | 202 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]acetic acid methyl ester | 940 mg | COC(CC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)CC)=O | C17H21ClN2O2S
reactant | water | 0.2 mL | O | H2O
reactant | sodium hydroxide | 0.2 mL | [OH-].[Na+]
reactant | water | 0.6 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethanol | 790 mg, Yield: 91% | ClC1=CC2=C(N=C(S2)N2CCC(CC2)(CC)CCO)C=C1 | C16H21ClN2OS
